US04234594
2[1-(2-Methylphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline
1-Acetyl-2-[1-(2-methylphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline (7.0 g.) was treated with HCl in methanol as described in Example II to give 4.6 g. of product, mp 168°-169°.

reactant | 1-Acetyl-2-[1-(2-methylphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | 7.0 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=C(C=CC=C1)C)C | C16H19N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2[1-(2-Methylphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | CC1=C(C=CC=C1)N1N=C(C=C1NC=1NCCN1)C | C14H17N5
